### PR TITLE
[Merged by Bors] - chore(SetTheory/Ordinal/Exponential): redefine ordinal exponential without `bsup`

### PR DESCRIPTION
**Pull request by vihdzp**
`Ordinal.bsup` is planned to be deprecated.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Command-Master — APPROVED** [review]
lgtm. Perhaps keep `opow_def`, but using the new definition?

**Comment by vihdzp** [comment]
The theorems in lines 42-60 completely characterize the ordinal exponential. The definition (particularly written as it is with `1 - a`) should remain a private implementation detail.

File: Mathlib/SetTheory/Ordinal/Exponential.lean [hunk 1]
```diff
@@ -21,46 +21,58 @@ universe u v w
...
 
-/-- The ordinal exponential, defined by transfinite recursion. -/
-instance pow : Pow Ordinal Ordinal :=
-  ⟨fun a b => if a = 0 then 1 - b else limitRecOn b 1 (fun _ IH => IH * a) fun b _ => bsup.{u, u} b⟩
+/-- The ordinal exponential, defined by transfinite recursion.
 
-theorem opow_def (a b : Ordinal) :
-    a ^ b = if a = 0 then 1 - b else limitRecOn b 1 (fun _ IH => IH * a) fun b _ => bsup.{u, u} b :=
-  rfl
+We call this `opow` in theorems in order to disambiguiate from other exponentials. -/
```
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/Exponential.lean:26]:
```suggestion
We call this `opow` in theorems in order to disambiguate from other exponentials. -/
```

File: Mathlib/SetTheory/Ordinal/Exponential.lean [hunk 2]
```diff
@@ -21,46 +21,58 @@ universe u v w
...
+  ⟨fun a b ↦ if a = 0 then 1 - b else
+    limitRecOn b 1 (fun _ x ↦ x * a) fun o _ f ↦ ⨆ x : Iio o, f x.1 x.2⟩
+
+private theorem opow_of_ne_zero {a b : Ordinal} (h : a ≠ 0) : a ^ b =
+    limitRecOn b 1 (fun _ x ↦ x * a) fun o _ f ↦ ⨆ x : Iio o, f x.1 x.2 :=
+  if_neg h
 
--- Porting note: `if_pos rfl` → `if_true`
-theorem zero_opow' (a : Ordinal) : 0 ^ a = 1 - a := by simp only [opow_def, if_true]
+private theorem zero_opow' (a : Ordinal) : 0 ^ a = 1 - a :=
```
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/Exponential.lean:35]: I would keep this one and the previous unprivated (though the porting note can go, as you've done). It's true that the following lemmas characterise the exponential, but it's still useful to have lemmas describing it anyway! For instance, `one_opow` follows from the definitions just as much as `zero_opow'` does, but it's still valuable to have that one.

File: Mathlib/SetTheory/Ordinal/Exponential.lean (hunk 1 above)
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/Exponential.lean:26]: This comment is a useful one - might be nice to also add it to the module docstring.

**Review by b-mehta — COMMENTED** [review]
The rest of the changes look good to me.

File: Mathlib/SetTheory/Ordinal/Exponential.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Exponential.lean:35]: `opow_def` is hideous and I can't imagine it being useful past line 60 of this file.

`zero_opow'` feels to me like an abuse of junk values (specifically the fact `a - b = 0` for `a < b`) but it is used once in this file to golf a result, so I can keep it in if you want.

Comment (b-mehta) [reply Mathlib/SetTheory/Ordinal/Exponential.lean:35]: Alright, let's compromise to deprecate `opow_def` (it'll ask for a comment, and you can say that one of `opow_zero`, `opow_succ`, `opow_limit` should be used instead), and keep `zero_opow'`. 

(Now that I think about it, a statement `0 ^ a = if a = 0 then 1 else 0` is sometimes useful... But I'll leave that up to you.)

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Exponential.lean:35]: Since the definition of `opow` has changed, I can't easily reprove `opow_def`. In fact, doing so would probably require me to introduce API to link `bsup` with `iSup`... which goes against the entire point of this.

File: Mathlib/SetTheory/Ordinal/Exponential.lean [hunk 3]
```diff
@@ -21,46 +21,59 @@ universe u v w
...
-/-- The ordinal exponential, defined by transfinite recursion. -/
-instance pow : Pow Ordinal Ordinal :=
-  ⟨fun a b => if a = 0 then 1 - b else limitRecOn b 1 (fun _ IH => IH * a) fun b _ => bsup.{u, u} b⟩
+/-- The ordinal exponential, defined by transfinite recursion.
 
-theorem opow_def (a b : Ordinal) :
-    a ^ b = if a = 0 then 1 - b else limitRecOn b 1 (fun _ IH => IH * a) fun b _ => bsup.{u, u} b :=
-  rfl
+We call this `opow` in theorems in order to disambiguate from other exponentials. -/
+instance opow : Pow Ordinal Ordinal :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Exponential.lean:27]:
```suggestion
instance instPow : Pow Ordinal Ordinal :=
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by b-mehta** [comment]
bors d+
